US06806265B2
a) 8-[2-(4-Bromo-2-methylphenoxy)ethyl]-11-ethyl -5,11-dihydro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A solution of DIAD (0.44 mL, 2.40 mmol) in THF (1.0 mL) was added dropwise to an ice-cold solution of 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (480 mg, 1.61 mmol), 4-bromo-2-methylphenol (318 mg, 1.70 mmol) and PPh3 (629 mg, 2.40 mmol) in THF (20 mL) at 25° C. The mixture was stirred at 0° C. for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (Hexane:EtOAc, 7:3) to yield the title compound (437 mg, 58% yield) as a white solid.

reactant | DIAD | 2.40 mmol, 0.44 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 11-ethyl-5,11-dihydro-8-(2-hydroxyethyl)-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 1.61 mmol, 480 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCO)=O)C)C=CC=N2 | C16H18N4O2
reactant | 4-bromo-2-methylphenol | 1.70 mmol, 318 mg | BrC1=CC(=C(C=C1)O)C | C7H7BrO
reactant | PPh3 | 2.40 mmol, 629 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 8-[2-(4-Bromo-2-methylphenoxy)ethyl]-11-ethyl -5,11-dihydro-5-methyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 437 mg, 58% yield | BrC1=CC(=C(OCCC2=CC3=C(N(C4=C(N(C3=O)C)C=CC=N4)CC)N=C2)C=C1)C | C23H23BrN4O2
